US07625932B2
Preparation of 3-bromo-4-ethoxy-benzonitrile
Add potassium carbonate (5.2 g, 37.9 mmol) to 3-bromo-4-hydroxy-benzonitrile (5.0 g, 25.2 mmol) in acetone with stirring at room temperature. After 15 minutes, add iodoethane (2.4 mL, 130.3 mmol) and continue stirring at room temperature. After 18 hours, pour the reaction mixture into water and extract with EtOAc. Combine the organic extracts, wash with water and brine, dry over anhydrous magnesium sulfate, filter, and concentrate under reduced pressure. Purify the residue by flash chromatography eluting with ethyl acetate:hexanes to provide the title compound.

reactant | potassium carbonate | 37.9 mmol, 5.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromo-4-hydroxy-benzonitrile | 25.2 mmol, 5.0 g | BrC=1C=C(C#N)C=CC1O | C7H4BrNO
reactant | iodoethane | 130.3 mmol, 2.4 mL | ICC | C2H5I
reactant | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 3-bromo-4-ethoxy-benzonitrile | BrC=1C=C(C#N)C=CC1OCC | C9H8BrNO
